US07595401B2
9-[2-(3,5-Bistrifluoromethyl-phenyl)-ethyl]-8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine
The title compound was prepared from 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine and 1-(2-bromo-ethyl)-3,5-bis-trifluoromethyl-benzene by a procedure similar to examples 1 and 2. The compound was purified by preparative HPLC. 9-[2-(3,5-Bistrifluoromethyl-phenyl)-ethyl]-8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine: 1H NMR (DMSO-d6) δ 8.10 (s, 1H), 7.86 (s, 1H), 7.54 (s, 2H), 7.01 (d, J=9.0 Hz, 1H), 6.83 (dd, J=11.0, 3.0 Hz, 1H), 6.40 (d, J=2.9 Hz, 1H), 4.50 (t, J=7.2 Hz, 2H), 3.75 (s, 3H), 3.59 (s, 3H), 3.24 (t, J=7.2 Hz, 2H); LC-MS [M+H]+ 544.1.

reactant | 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine | COC1=C(C=C(C=C1)OC)SC=1NC2=NC=NC(=C2N1)N | C13H13N5O2S
reactant | 1-(2-bromo-ethyl)-3,5-bis-trifluoromethyl-benzene | BrCCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H7BrF6
product | 9-[2-(3,5-Bistrifluoromethyl-phenyl)-ethyl]-8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN1C2=NC=NC(=C2N=C1SC1=C(C=CC(=C1)OC)OC)N)(F)F | C23H19F6N5O2S
